US04956372
8-Bromo-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione
A mixture of 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione (10 g) and N-bromosuccinimide (10 g) in DMF (60 ml) was stirred at 70° C. for 5 hours. After cooling, to the mixture was added ethyl acetate (500 ml) and washed with water and saturated aqueous sodium chloride solution successively, and then dried over anhydrous sodium sulfate. Evaporation of ethyl acetate afforded the title compound. The compound was recrystallized from ethanol to give 14 g (98.4%) as dark red needles.

reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione | 10 g | C1(C(N2CCCC3=CC=CC1=C23)=O)=O | C11H9NO2
reactant | N-bromosuccinimide | 10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 8-Bromo-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione | BrC=1C=C2CCCN3C2=C(C1)C(C3=O)=O | C11H8BrNO2
